US07247748B2
e) 2-(3-{3-[(2-Chloro-3-(trifluoromethyl)-benzyl)-(2,2-diphenylethyl)-amino]-propoxy}phenyl)-1-morpholinyl-ethanone hydrochloride salt
2-(3-{3-[[2-chloro-3-(trifluoromethyl)benzyl)(2,2-diphenylethyl)-amino]-propoxy}-phenyl acetic acid (50 mg, 0.086 mmole) and morpholine (8.7 mg, 0.10 mmole) were dissolved in CH3CN (2 ml). BOP reagent (44 mg, 0.10 mmole) was added followed by Et3N (20 mg, 0.20 mmole). The resultant mixture was stirred at room temperature for 2 h. The mixture was concentrated under reduced pressure. The residue was partitioned between EtOAc and aqueous Na2CO3 (5%) solution. The organic layer was separated, dried over MgSO4 and concentrated. In cases where the product required further purification, a preparative Gilson HPLC was used (YMC CombiPrep ODS-A, 50×20 mm, 20 ml/min, 30–90% CH3CN over 15 minutes). The HCl salt was made by adding HCl (in ether) to an ether solution of the product and then evaporation of the solvent to give a yellow solid (32 mg, 54%). MS(ES) m/e 651.2 [M+H]+.

reactant | 3-{3-[[2-chloro-3-(trifluoromethyl)benzyl)(2,2-diphenylethyl)-amino]-propoxy}-phenyl acetic acid | 0.086 mmole, 50 mg | ClC1=C(CN(CCCOC=2C=C(C=CC2)CC(=O)O)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C33H31ClF3NO3
reactant | morpholine | 0.10 mmole, 8.7 mg | N1CCOCC1 | C4H9NO
reactant | BOP reagent | 0.10 mmole, 44 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.20 mmole, 20 mg | CCN(CC)CC | C6H15N
solvent | CH3CN | 2 ml | CC#N | C2H3N
product | 2-(3-{3-[(2-Chloro-3-(trifluoromethyl)-benzyl)-(2,2-diphenylethyl)-amino]-propoxy}phenyl)-1-morpholinyl-ethanone hydrochloride salt | 32 mg, 54% | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)CC(=O)N2CCOCC2)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C37H38ClF3N2O3.ClH/c38-36-31(15-8-17-34(36)37(39,40)41)26-42(27-33(29-11-3-1-4-12-29)30-13-5-2-6-14-30)18-9-21-46-32-16-7-10-28(24-32)25-35(44)43-19-22-45-23-20-43;/h1-8,10-17,24,33H,9,18-23,25-27H2;1H
